US07846925B2
Intermediate 13: Preparation of 4-Phenyl-quinazoline-6-carbaldehyde
4-Chloro-quinazoline-6-carbaldehyde (50 mg, 0.26 mmol), Pd(PPh3)4 (13 mg, 0.01 mmol), phenylboronic acid (63 mg, 0.52 mmol) and sodium carbonate (sat. sol: 50 ul) were heated up in toluene at 100° C. for 12 h. After evaporation of the solvents, the residue was taken up in ethyl acetate and washed with brine twice. Organic phases were then concentrated and raw materiel was purified on silica gel using DCM/EtOH 95:5 as eluents to give 50 mgs (82%) of the desired cpd with a 85% purity.

reactant | 4-Chloro-quinazoline-6-carbaldehyde | 0.26 mmol, 50 mg | ClC1=NC=NC2=CC=C(C=C12)C=O | C9H5ClN2O
reactant | phenylboronic acid | 0.52 mmol, 63 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 50 ul | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.01 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Phenyl-quinazoline-6-carbaldehyde | C1(=CC=CC=C1)C1=NC=NC2=CC=C(C=C12)C=O | C15H10N2O
